US07572921B2
To a solution of 2-benzyl-3-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-acrylic acid ethyl ester, (409 mg, 0.99 mmol) in absolute ethanol (30 mL) was added Raney nickel active catalyst (approximately 1 g of a 50% suspension in water). The reaction flask was flushed with N2 prior to flushing with H2 via a balloon. The reaction was stirred at ambient temperature for 14 h under a balloon atmosphere of H2. After flushing with N2, the reaction was filtered through a plug of celite and the filtrate concentrated in vacuo. The resulting residue was partitioned with CH2Cl2 (10 mL) and saturated NaHCO3 (5 mL). The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to afford 2-benzyl-3-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-propionic acid ethyl ester (385 mg, 94%) as a colorless oil: ESI MS m/z 417 [C22H22Cl2N2O2+H]+.

reactant | 2-benzyl-3-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-acrylic acid ethyl ester | 0.99 mmol, 409 mg | C(C)OC(C(=CC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)CC1=CC=CC=C1)=O | C22H20Cl2N2O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | 2-benzyl-3-[1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-propionic acid ethyl ester | 385 mg, 94% | C(C)OC(C(CC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)CC1=CC=CC=C1)=O | C22H22Cl2N2O2
